US06156776
To a solution of p-tolunitrile (10.1 g, 86.21 mmol) in 100 ml CHCl3 :MeOH (1:1) cooled to 5° C. in an ice-water bath is bubbled HCl for 1 hour to reach saturation. The solution is stirred at 10° C. for 43 hours, then concentrated under reduced pressure to yield p-methylbenzimidate hydrochloride as pale yellow crystals (15.98 g, 99%).

reactant | p-tolunitrile | 86.21 mmol, 10.1 g | C1(=CC=C(C=C1)C#N)C | C8H7N
reactant | CHCl3 MeOH | 100 ml | C(Cl)(Cl)Cl.CO
product | p-methylbenzimidate hydrochloride | 15.98 g, 99% | Cl.CC1=CC=C(C(O)=N)C=C1 | InChI=1S/C8H9NO.ClH/c1-6-2-4-7(5-3-6)8(9)10;/h2-5H,1H3,(H2,9,10);1H
